US08895544B2
6-Cyano-nicotinoyl chloride
6-Cyano-nicotinic acid (120 mg, 810 μmol) was suspended in toluene (1 mL) and thionyl chloride (119 μL, 1.62 mmol) was added dropwise followed by one drop of DMF. The reaction mixture was refluxed for 2.5 hours and then allowed to cool to room temperature for 18 hours. The solvents were removed in vacuo and the residue was azeotroped with toluene to furnish the title compound as a brown oil (134 mg) which was used in further experiments without purification.

reactant | 6-Cyano-nicotinic acid | 810 μmol, 120 mg | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
reactant | thionyl chloride | 1.62 mmol, 119 μL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 6-Cyano-nicotinoyl chloride | 134 mg | C(#N)C1=NC=C(C(=O)Cl)C=C1 | C7H3ClN2O
